US08470859B2
(Step 1) To a mixed solution of methyl 3-chloro-5-[(methylamino)carbonyl]benzoate (2.5 g) in tetrahydrofuran:ethanol=10:1 (110 ml) was added lithium tetrahydroborate (0.36 g) at room temperature. After stirring at 60° C. for 4 hr, the reaction solution was quenched with ice and extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was treated by silica gel chromatography (ethyl acetate) to give 3-chloro-5-(hydroxymethyl)-N-methylbenzamide (1.2 g).

reactant | methyl 3-chloro-5-[(methylamino)carbonyl]benzoate | 2.5 g | ClC=1C=C(C(=O)OC)C=C(C1)C(=O)NC | C10H10ClNO3
reactant | ethanol | C(C)O | C2H6O
reactant | lithium tetrahydroborate | 0.36 g | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-chloro-5-(hydroxymethyl)-N-methylbenzamide | 1.2 g | ClC=1C=C(C(=O)NC)C=C(C1)CO | C9H10ClNO2
